US08217064B2
To a stirred solution of ethyl 2-(3-bromo-5-chloro-4-(cyclopropylmethoxy)-phenyl)-4-methoxybutanoate (2.3 g, 5.660 mmol) in a mixture of DMF (50 mL) and water (5 mL) were added Cs2CO3 (6.4 g, 19.815 mmol), Pd(TPP)4 (1.3 g, 1.120 mmol) and 4-(trifluoromethyl)phenyl boronic acid (1.29 g, 6.780 mmol) at RT under N2 atmosphere and the resulting mixture was stirred at 80° C. for 14 h. After completion of starting material (by TLC), filtered off the catalyst and celite bed was washed with EtOAc and extracted with EtOAc (3×100 mL). Combined organic layers were washed with water (3×50 mL), brine and dried over anhydrous Na2SO4. After filtration and concentration under reduced pressure, the crude material was purified by column chromatography to afford ethyl 2-(5-chloro-6-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methoxybutanoate (1.2 g) as an off white solid.

reactant | ethyl 2-(3-bromo-5-chloro-4-(cyclopropylmethoxy)-phenyl)-4-methoxybutanoate | 5.660 mmol, 2.3 g | BrC=1C=C(C=C(C1OCC1CC1)Cl)C(C(=O)OCC)CCOC | C17H22BrClO4
reactant | Cs2CO3 | 19.815 mmol, 6.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-(trifluoromethyl)phenyl boronic acid | 6.780 mmol, 1.29 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | ethyl 2-(5-chloro-6-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methoxybutanoate | 1.2 g | ClC=1C=C(C=C(C1OCC1CC1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)OCC)CCOC | C24H26ClF3O4
